US09024093B2
N-Boc-5-bromoindazole (S45)
To 5-bromoindazole (394 mg, 2.00 mmol, 1.00 equiv) in MeCN (4.0 mL) at 23° C. was added Boc2O (436 mg, 2.00 mmol, 1.00 equiv) and 4-(dimethylamino)pyridine (24.4 mg, 0.200 mmol, 0.100 equiv). After stiffing for 15 min at 23° C., the reaction mixture was concentrated in vacuo. The residue was filtered through a plug of silica gel eluting with hexanes/EtOAc 7:3 (v/v) to afford 588 mg of the title compound as a pale yellow oil (99% yield).

reactant | 5-bromoindazole | 2.00 mmol, 394 mg, 1.00 equiv | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | Boc2O | 2.00 mmol, 436 mg, 1.00 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 4.0 mL | CC#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 0.200 mmol, 24.4 mg, 0.100 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Boc-5-bromoindazole | 588 mg, 99% yield | C(=O)(OC(C)(C)C)N1N=CC2=CC(=CC=C12)Br | C12H13BrN2O2
